US03965151
Preparation of 10-Chloro-11b-(2-fluorophenyl)-7-(2-hydroxyethyl)-2,3,5,11b-tetrahydrooxazolo[3,2-d][1,4]benzodiazepin-6(7H)-one
A solution of 33.3g (0.1 M) of 10-chloro-11b-(2-fluorophenyl)2,3,5,11b-tetrahydrooxazolo[3,2-d][1,4]benzodiazepin-6(7H)-one in 100 ml of dry N,N-dimethylformamide was treated with 6.6g (0.138 M) of a 50 per cent dispersion of sodium hydride in mineral oil. The mixture was stirred for 0.5 hour at room temperature, was then cooled to 5°-10° and treated with a solution of 31g (0.186 M) of ethyl bromoacetate in 25 ml of dry N,N-dimethylformamide. The resulting mixture was allowed to stir at room temperature for 18 hours when 3 ml of water was carefully added. The solution was next evaporated to dryness under reduced pressure. The residue was next treated with 50 ml of toluene and evaporated to dryness. This procedure was repeated twice in order to azeotrope any remaining water or N,N-dimethylformamide. The crude ester thus obtained was dissolved in 250 ml of dry tetrahydrofuran, cooled to 0° and was treated by the portionwise addition of 1.9g (0.05 M) of lithium aluminium hydride. The cooling bath was removed and the mixture was allowed to stir for 3 hours. Enough saturated sodium bicarbonate solution was added to coagulate the solids and the mixture was filtered. The filtrates were concentrated to dryness and dissolved in dichloromethane. The solution was washed with 1N hydrochloric acid, water, saturated brine, dried over anhydrous sodium sulfate and evaporated. The residue was crystallized from toluene to give the above named product as white prisms, m.p. 142°-147°.

reactant | 10-chloro-11b-(2-fluorophenyl)2,3,5,11b-tetrahydrooxazolo[3,2-d][1,4]benzodiazepin-6(7H)-one | 0.1 M, 33.3g | ClC=1C=CC2=C(C3(N(CC(N2)=O)CCO3)C3=C(C=CC=C3)F)C1 | C17H14ClFN2O2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | lithium aluminium hydride | 0.05 M, 1.9g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | 10-Chloro-11b-(2-fluorophenyl)-7-(2-hydroxyethyl)-2,3,5,11b-tetrahydrooxazolo[3,2-d][1,4]benzodiazepin-6(7H)-one | ClC=1C=CC2=C(C3(N(CC(N2CCO)=O)CCO3)C3=C(C=CC=C3)F)C1 | C19H18ClFN2O3
